US06706725B1
h) [5-((E)-1,5-Diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienyl]methanol
4 g (9.9 mmol) of 5-((E)-1,5-diethyl-5-triethylsilanyloxyhept-1-enyl)thiophene-3-carbaldehyde are dissolved in 50 mL of THF and 50 mL of methanol. 1 g (26 mmol) of sodium borohydride is then added portionwise. The reaction medium is stirred for 1 hour and then poured into 100 mL of water. After purification by chromatography on silica gel, the desired product is obtained in the form of a colourless oil (m=4 g; Y=100%).

reactant | 5-((E)-1,5-diethyl-5-triethylsilanyloxyhept-1-enyl)thiophene-3-carbaldehyde | 9.9 mmol, 4 g | C(C)/C(=C\CCC(CC)(O[Si](CC)(CC)CC)CC)/C1=CC(=CS1)C=O | C22H38O2SSi
reactant | sodium borohydride | 26 mmol, 1 g | [BH4-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | [5-((E)-1,5-Diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienyl]methanol | C(C)/C(=C\CCC(CC)(O[Si](CC)(CC)CC)CC)/C1=CC(=CS1)CO | C22H40O2SSi
